US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (80 mg) was reacted with N-(4-iodophenyl)-4,6-dimethoxy-N-methylpyrimidin-2-amine (118 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-((4,6-dimethoxy-pyrimidin-2-yl)-methyl-amino)phenyl]pent-4-enoic acid methyl ester (92 mg). Column chromatography (silica gel, eluent: hexane/ethyl acetate=2/1) was used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 80 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | N-(4-iodophenyl)-4,6-dimethoxy-N-methylpyrimidin-2-amine | 118 mg | IC1=CC=C(C=C1)N(C1=NC(=CC(=N1)OC)OC)C | C13H14IN3O2
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-((4,6-dimethoxy-pyrimidin-2-yl)-methyl-amino)phenyl]pent-4-enoic acid methyl ester | 92 mg | COC(C(C\C=C\C1=CC=C(C=C1)N(C)C1=NC(=CC(=N1)OC)OC)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C26H26Cl2N4O5
